US06686363B2
To a solution of 2-fluoro-4-nitrophenylacetic acid (24.0 g) in t-butyl alcohol (450 mL) was added di-t-butyl dicarbonate (29.0 g) and (4-dimethylamino)pyridine (1.47 g) at room temperature, and the mixture was stirred at the same temperature for 2 hours. The mixture was added saturated sodium hydrogencarbonate solution, stirred for 30 min, and then extracted with ethyl acetate. The organic extracts were washed with 5% hydrochloric acid and brine, dried over anhydrous magnesium sulfate, filtered, and then concentrated in vacuo. Flash chromatography (silica, hexane:ethyl acetate=6:1) of the residue gave t-butyl 2-fluoro-4-nitrophenylacetate. MS (FAB+) m/z: 256 (MH+).

reactant | 2-fluoro-4-nitrophenylacetic acid | 24.0 g | FC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C8H6FNO4
reactant | di-t-butyl dicarbonate | 29.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | t-butyl alcohol | 450 mL | C(C)(C)(C)O | C4H10O
product | t-butyl 2-fluoro-4-nitrophenylacetate | FC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)OC(C)(C)C | C12H14FNO4
